US07858621B2
To a suspension of 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (100 mg, 0.397 mmol) in pyrrolidine (1.0 ml) was added DMF (1.0 ml). The mixture was stirred for 12 hours at room temperature. The reaction mixture was diluted with EtOAc and then washed two times with 1N-HCl and brine, dried over MgSO4, filtered and concentrated under reduced pressure. The crude residue was column-chromatographed to yield the 3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid (100 mg, 91%).

reactant | 3-(2-chloro-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 0.397 mmol, 100 mg | ClC1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C9H5ClF3NO2
reactant | DMF | 1.0 ml | CN(C)C=O | C3H7NO
reactant | pyrrolidine | 1.0 ml | N1CCCC1 | C4H9N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(2-pyrrolidin-1-yl-6-trifluoromethyl-pyridin-3-yl)-acrylic acid | 100 mg, 91% | N1(CCCC1)C1=NC(=CC=C1C=CC(=O)O)C(F)(F)F | C13H13F3N2O2
